US07179912B2
2-Hydroxymethyl-5-morpholin-4-yl-phenol
A solution of sodium borohydride (NaBH4) (0.66 g, 17 mmol) in water (25 mL) was treated with 4-morpholinylsalicylaldehyde (1.8 g, 9 mmol) in small portions over 30 min and stirred at room temperature for 3 h. The reaction was quenched with acetone (5.1 mL, 100 mmol), acidified to pH 7 with 7.8 mL of 5% hydrochloric acid (aqueous) and extracted with chloroform (CHCl3) (2×100 mL). The combined CHCl3 extracts were dried over sodium sulfate (Na2SO4) and concentrated in vacuo to yield 0.7 g of pale yellow solid which was purified by trituration with 60/40 CHCl3/ethyl acetate (EtOAc) to yield the product as a white solid (0.25 g).

reactant | sodium borohydride | 17 mmol, 0.66 g | [BH4-].[Na+]
reactant | 4-morpholinylsalicylaldehyde | 9 mmol, 1.8 g | N1(CCOCC1)C=1C=C(C(C=O)=CC1)O | C11H13NO3
reactant | acetone | 100 mmol, 5.1 mL | CC(=O)C | C3H6O
reactant | hydrochloric acid | 7.8 mL | Cl | ClH
solvent | water | 25 mL | O | H2O
product | 2-Hydroxymethyl-5-morpholin-4-yl-phenol | 0.7 g | OCC1=C(C=C(C=C1)N1CCOCC1)O | C11H15NO3
